US06696110B1
A mixture of sodium ethoxide (0.7 g), 1-(4-methoxyphenyl)acetylene (0.5 g), and toluene (40 cm3) is stirred for 2 h, 2-bromo-5-cyanothiophene (0.7 g), is added and the resultant mixture heated under reflux for 3 h. The reaction mixture is poured into water (500 cm3) and the organic layer separated off. The aqueous layer is then extracted with toluene (2×50 cm3). The combined organic layers are washed with water (2×200 cm3), dried (MgSO4), filtered and then evaporated down. The residue is purified by column chromatography on silica gel using a 95:5 hexane/ethyl acetate mixture as eluent and recrystallisation from ethanol to yield 0.3 g of 1-(4-methoxyphenyl)-2-(2-cyanothiophen-5-yl)acetylene.

reactant | sodium ethoxide | 0.7 g | [O-]CC.[Na+]
reactant | 1-(4-methoxyphenyl)acetylene | 0.5 g | COC1=CC=C(C=C1)C#C | C9H8O
reactant | toluene | 40 cm3 | C1(=CC=CC=C1)C | C7H8
reactant | 2-bromo-5-cyanothiophene | 0.7 g | BrC=1SC(=CC1)C#N | C5H2BrNS
solvent | water | 500 cm3 | O | H2O
product | 1-(4-methoxyphenyl)-2-(2-cyanothiophen-5-yl)acetylene | 0.3 g | COC1=CC=C(C=C1)C#CC1=CC=C(S1)C#N | C14H9NOS
